US06083961
To a solution of 4-[3-[N-[(E)-3-(6-ethoxycarbonylpyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methoxy-1-methyl-1H-benzimidazole (304 mg) in ethanol was added 1N sodium hydroxide solution (0.5 ml), and the mixture was stirred for 1.5 hours at ambient temperature. The solvent was removed, water was added to the residue. The mixture was adjusted to pH 4 with 1N hydrochloric acid and extracted with chloroform. The extract was dried and evaporated in vacuo. Acetonitrile was added to the residue, and the residue was collected by filtration to give 4-[3-[N-[(E)-3-(6-carboxypyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methoxy-1-methyl-1H-benzimidazole (195 mg).

reactant | 4-[3-[N-[(E)-3-(6-ethoxycarbonylpyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methoxy-1-methyl-1H-benzimidazole | 304 mg | C(C)OC(=O)C1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(COC2=CC=CC=3N(C(=NC32)OC)C)C(=CC1)Cl)Cl | C30H29Cl2N5O6
reactant | sodium hydroxide | 1N, 0.5 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[3-[N-[(E)-3-(6-carboxypyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methoxy-1-methyl-1H-benzimidazole | 195 mg | C(=O)(O)C1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(COC2=CC=CC=3N(C(=NC32)OC)C)C(=CC1)Cl)Cl | C28H25Cl2N5O6
